US07307099B2
1-(4-methoxy-benzenesulfonyl)-1H-indole
The title compound was prepared from 4-methoxy-benzene sulfonyl chloride and 1H-indole, according to Method A, described above. Yield 95%; mp 124-126° C.; 1H NMR (CDCl3) δ 7.90-7.93 (dd, J=8 Hz, 1H), 7.74 (d, J=9 Hz, 2H), 7.43-7.49 (m, 2H), 7.14-7.27 (m, 2H), 6.79 (d, J=9 Hz, 2H), 6.56-6.58 (dd, J=4 Hz, 1H), 3.41 (s, 3H); 13C NMR (CDCl3) δ 164.1, 135.2, 131.2, 130.1, 129.5, 126.7, 124.9, 123.6, 121.8, 114.8, 113.9, 109.3, 56.0; MS (AP+) m/z288.05 (M++1).

reactant | 4-methoxy-benzene sulfonyl chloride | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | 1H-indole | N1C=CC2=CC=CC=C12 | C8H7N
product | 1-(4-methoxy-benzenesulfonyl)-1H-indole | Yield 95% | COC1=CC=C(C=C1)S(=O)(=O)N1C=CC2=CC=CC=C12 | C15H13NO3S
